US05866434
The reaction sequence is shown in FIG. 5. Nε -(tert-butoxycarbonyl)-L-lysine (2 g, 8.12 mmol) was dissolved in methanol (40 ml) and water (40 ml), and the pH was adjusted to 8 with triethylamine. A solution of N-(benzyloxycarbonyl-oxy)succinimide in dioxane (2.4 g, 9.7 mmol in 20 ml) was added to the above mixture and the pH was maintained at 8-9 with triethylamine. The reaction mixture was stirred overnight. The solvent was removed by rotary evaporation to obtain crude Nα -CBZ-Nε -(tert-butoxycarbonyl)-L-lysine. Nα -CBZ-Nε -(tert-butoxycarbonyl)-L-lysine was treated with 0.2M calcium carbonate (4 ml) and the aqueous layer was removed to obtain a white solid. The solid was resuspended in N,N-dimethylformamide(40 ml) and benzyl bromide (1.16 ml). The reaction mixture was stirred overnight at room temperature. The reaction mixture was worked up with ethyl acetate and water, and the organic layer was dried over magnesium sulphate. The solvent was removed to obtain crude Nα -CBZ-Nε -(tert-butoxycarbonyl)-L-lysine benzyl ester which was purified by silica gel chromatography using 25% hexane in ethyl acetate as a solvent. To Nα -CBZ-Nε -(tert-butoxycarbonyl)-L-lysine benzyl ester (1 g, 2.2 mmol) in methylene chloride (10 ml) was added trifloroacetic acid at 0° C. The reaction mixture was stirred for 10 minutes at 0° C., then stirred for further 2.5 hr at room temperature. The solvent was removed and the crude product was obtained. Pure Nα -CBZ-L-lysine benzyl ester was obtained by silica gel chromatography.

reactant | Nα -CBZ-Nε -(tert-butoxycarbonyl)-L-lysine benzyl ester | 2.2 mmol, 1 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CCCCNC(=O)OC(C)(C)C)=O | C26H34N2O6
reactant | trifloroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Nα -CBZ-L-lysine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CCCCN)=O | C21H26N2O4
